US08541596B2
N-(4-Ethylbenzyl)-N-(4-methylbenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N-(4-ethylbenzyl)benzimidazol-5-amine (251 mg; 1 mmol; 1 eq.), 4-methylbenzylbromide (204 mg; 1.1 mmol; 1.1 eq.) and K2CO3 (152 mg; 1.1 mmol; 1.1 eq.) according to method 6; Yield: 0.131 g (36.9%); MS m/z: 356.5 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 1.14 (t, 3H, 3J=7.6 Hz); 2.25 (s, 3H); 2.55 (q, 2H, 3J=7.6 Hz); 4.60 (s, 4H); 6.68 (br s, 1H); 6.72 (dd, 1H, 4J=1.8 Hz, 3J=8.9 Hz); 7.09-7.19 (m, 8H); 7.32 (d, 1H, 3J=8.9 Hz); 7.89 (s, 1H); 11.88 (br s, 1H); HPLC (METHOD [A]): rt 18.62 min (100%)

reactant | N-(4-ethylbenzyl)benzimidazol-5-amine | 1 mmol, 251 mg, 1 eq. | C(C)C1=CC=C(CNC2=CC3=C(N=CN3)C=C2)C=C1 | C16H17N3
reactant | 4-methylbenzylbromide | 1.1 mmol, 204 mg, 1.1 eq. | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | K2CO3 | 1.1 mmol, 152 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(4-Ethylbenzyl)-N-(4-methylbenzyl)-1H-benzo[d]imidazol-5-amine | C(C)C1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC=C(C=C2)C)C=C1 | C24H25N3
